US07863271B2
Following general procedure GP-A, a mixture of methyl 2-chlorobenzoxazole-4-carboxylate and 2-amino-N,N-dimethylacetamide provided methyl 2-(2-(dimethylamino)-2-oxoethylamino)benzoxazole-4-carboxylate. 1H NMR and MS consistent.

reactant | methyl 2-chlorobenzoxazole-4-carboxylate | ClC=1OC=2C(N1)=C(C=CC2)C(=O)OC | C9H6ClNO3
reactant | 2-amino-N,N-dimethylacetamide | NCC(=O)N(C)C | C4H10N2O
product | methyl 2-(2-(dimethylamino)-2-oxoethylamino)benzoxazole-4-carboxylate | CN(C(CNC=1OC=2C(N1)=C(C=CC2)C(=O)OC)=O)C | C13H15N3O4
